US07498440B2
Preparation of 1-azabicyclo[2.2.2]oct-4-yl(di-2-thienyl)methanol
A solution of 2-thienyllithium (1.0M in THF, 9.10 mL, 9.10 mmol) was chilled down to −30° C. under Ar. Ethyl 1-azabicyclo[2.2.2]octane-4-carboxylate (0.4196 g, 2.289 mmol) in THF (8 mL) was slowly added to the reaction mixture over 20 min. The reaction was allowed to warm up to room temperature over 16 h. The reaction was quenched with water and then evaporated to dryness. H2O and DCM were added, causing a light brown solid to crash out. This solid was filtered off to give the title compound (0.4161 g, 59.5%). EI-MS m/z 306(M+H+) Rt (1.35 min).

reactant | 2-thienyllithium | 9.10 mmol, 1.0M, 9.10 mL | S1C(=CC=C1)[Li]
reactant | Ethyl 1-azabicyclo[2.2.2]octane-4-carboxylate | 2.289 mmol, 0.4196 g | N12CCC(CC1)(CC2)C(=O)OCC | C10H17NO2
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 1-azabicyclo[2.2.2]oct-4-yl(di-2-thienyl)methanol | 0.4161 g, 59.5% | N12CCC(CC1)(CC2)C(O)(C=2SC=CC2)C=2SC=CC2 | C16H19NOS2
